US05389292
b) 4-Difluoromethoxy-4'-(trans-4-pentylcyclohexyl)-tolan
A solution of 15.3 g of 4-(trans-4-pentylcyclohexyl)phenylacetylene (available from the acetophenone by dehydration, using PCl5 /KOT), 16.2 g of difluoromethoxy-4-iodobenzene, 100 ml of triethylamine, 0.085 g of bis(triphenylphosphine)dichloropalladium and 0.11 g of copper(I) iodide is stirred at room temperature for 3 hours. The cloudy mixture is stirred into dilute hydrochloric acid (500 ml of water +200 ml of 37% hydrochloric acid), extracted with t-butyl methyl ether and worked up as usual. m.p.: 62° C., c.p.: 203.1° C.

reactant | 4-(trans-4-pentylcyclohexyl)phenylacetylene | 15.3 g | C(CCCC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C#C | C19H26
reactant | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | PCl5 | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | difluoromethoxy-4-iodobenzene | 16.2 g | FC(OC1=CC=C(C=C1)I)F | C7H5F2IO
reactant | hydrochloric acid | 500 ml | Cl | ClH
catalyst | bis(triphenylphosphine)dichloropalladium | 0.085 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.11 g | [Cu]I
solvent | triethylamine | 100 ml | C(C)N(CC)CC | C6H15N
product | 4-Difluoromethoxy-4'-(trans-4-pentylcyclohexyl)-tolan | FC(OC1=CC=C(C=C1)C#CC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CCCCC)F | C26H30F2O
